US05420343
Methyl 3,5-bis(1,1-dimethylethyl)benzoate (1)
To a solution of 5.50 g (23.5 mmoles) of 3,5-di-t-butylbenzoic acid in 25 ml of dry dimethylformamide was added 5.01 g (35.3 mmoles) of iodomethane, and then 6.49 g of anhydrous potassium carbonate. After stirring at room temperature for 2 hours, water was added, the mixture was extracted three times with diethyl ether, the combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and evaporated to give 5.68 g of the title compound as a crystalline solid, m.p. 52.0°-52.5° C. The structural assignment was supported by 1H NMR.

reactant | 3,5-di-t-butylbenzoic acid | 23.5 mmoles, 5.50 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1)C(C)(C)C | C15H22O2
reactant | iodomethane | 35.3 mmoles, 5.01 g | IC | CH3I
reactant | potassium carbonate | 6.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | Methyl 3,5-bis(1,1-dimethylethyl)benzoate | 5.68 g | CC(C)(C)C=1C=C(C(=O)OC)C=C(C1)C(C)(C)C | C16H24O2
